US08071609B2
D) (Dipropylphosphoryl)methyl 4-methylbenzenesulfonate
To dipropyl hydroxymethylphosphine-oxide (Ref. U.S. Pat. No. 5,272,128) (16.4 g, 0.1 mol) in anhydrous ether (200 mL) at 0° C., was added p-toluenesulfonyl chloride (19.1 g, 0.1 mol), triethyl amine (27.8 mL, 0.2 mol). The reaction was stirred at room temperature over night. The ether solution was decanted, and the precipitate was washed in a filter funnel with ˜1 L ether until HPLC found no product. Combined ether layer were concentrated. The crude product was purified on silica gel chromatography with 8% MeOH/DCM.

reactant | dipropyl hydroxymethylphosphine-oxide | C(CC)P(CO)(CCC)=O | C7H17O2P
reactant | p-toluenesulfonyl chloride | 0.1 mol, 19.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethyl amine | 0.2 mol, 27.8 mL | C(C)N(CC)CC | C6H15N
solvent | ether | 200 mL | CCOCC | C4H10O
product | (Dipropylphosphoryl)methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCP(=O)(CCC)CCC | C14H23O4PS
